US07399759B2
N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]methanesulfonamide
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (450 mg, 1.1 mmol) and methanesulfonyl chloride (205 mg, 1.7 mmol) were dissolved in ethyl acetate (10 ml) and water (5 ml), and sodium hydrogen carbonate (250 mg, 3.0 mmol) was added thereto. The mixture was stirred at room temperature for 1 hr. The reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-methanol (20:1, v/v) were collected, concentrated and recrystallized from hexane-tetrahydrofuran to give the titled compound (88 mg, 21%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.1 mmol, 450 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | methanesulfonyl chloride | 1.7 mmol, 205 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | 3.0 mmol, 250 mg | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | N-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]methanesulfonamide | 88 mg, 21% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNS(=O)(=O)C | C15H13N3O3S2
